US07576215B2
METHYL 2-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]-3-[4-(2-METHOXY-2-OXOETHYL)PHENYL]PROPANOATE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and (4-bromomethyl-phenyl)-acetic acid methyl ester according to the procedure of Example 41. MS (ESI) m/z 718; HRMS: calcd for C43H34F3NO6+H+, 718.24110; found (ESI, [M+H]+), 718.2444.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | (4-bromomethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)CBr)=O | C10H11BrO2
product | METHYL 2-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]-3-[4-(2-METHOXY-2-OXOETHYL)PHENYL]PROPANOATE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)C(C(=O)OC)CC2=CC=C(C=C2)CC(=O)OC)C=CC1)C(F)(F)F | C43H34F3NO6
